.subckt H11AA1 A1 A2 C B E
D1 A1 A2 Led
D2 A2 A1 Led
B1 0 cur I=1m*(i(d1)+i(d2)) Rpar=1
Q1 C B E QH11
C1 A1 A2 50p
B2 C B I=v(cur)
C2 cur 0 500n
R1 c e 100Meg
R2 b e 100Meg
.MODEL QH11 NPN (IS=15.2F NF=1 BF=650 VAF=98.5 IKF=90M
+ ISE=2.34P NE=2 BR=4 NR=1 VAR=16 IKR=.135 RE=63 RB=252
+ RC=25.2 XTB=1.5 CJE=9P CJC=19P TF=397P TR=75.7N)
.MODEL LED D(N=2 IS=1p RS=1.5)
.ends H11AA1